US08119685B2
4-{acetyl [2-(dimethylamino)ethyl]amino}-N-[2-amino-5-(2-thienyl)phenyl]benzamide
TFA (0.5 mL) was added to the tert-butyl [2-[(4-{acetyl[2-(dimethylamino)ethyl]amino}benzoyl)amino]-4-(2-thienyl)phenyl]carbamate (0.05 g, 0.096 mmol) in DCM (1 mL). The reaction mixture was stirred for 45 min. LC/MS shows mass for the product. The mixture was concentrated and 1H NMR was taken to show pure compound. 1H NMR (600 MHz, MeOH-d4) δ 8.20 (d, J=8.4 Hz, 2H), 8.69 (d, J=1.8 Hz, 1H), 7.65 (dd, J=2.0, 8.4 Hz, 1H), 7.57 (d, J=8.4 Hz, 2H), 7.43 (dd, J=4.3, 7.4 Hz, 2H), 7.38 (d, J=8.4 Hz, 1H), 7.11 (dd, J=3.7, 5.1 Hz, 1H), 4.13 (t, J=6.1 Hz, 2H), 3.31-3.34 (m, 2H), 3.00 (s, 6H), 1.92 (s. 3H); MS: cal'd 423 (MH+), exp 423 (MH+).

reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl [2-[(4-{acetyl[2-(dimethylamino)ethyl]amino}benzoyl)amino]-4-(2-thienyl)phenyl]carbamate | 0.096 mmol, 0.05 g | C(C)(=O)N(C1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(OC(C)(C)C)=O)C=C1)CCN(C)C | C28H34N4O4S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-{acetyl [2-(dimethylamino)ethyl]amino}-N-[2-amino-5-(2-thienyl)phenyl]benzamide | C(C)(=O)N(C1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)N)C=C1)CCN(C)C | C23H26N4O2S
